US07432288B2
tert-Butyl {5-[(3-chloro-2,5-dioxo-4-phenyl-2,5-dihydro-1H-pyrrol-1-yl)methyl]pyridin-2-yl}carbamate
3-Chloro-4-phenyl-1H-pyrrole-2,5-dione (1.55 g, 7.47 mmol) was dissolved in DMF (25 mL) under nitrogen atmosphere and cooled in an ice-bath. tert-Butyl [5-(bromomethyl)pyridin-2-yl]carbamate (2.14 g, 7.46 mmol) was added followed by anhydrous potassium carbonate (1.03 g, 7.47 mmol)and the mixture was stirred for one and a half hours whereafter the cooling-bath was removed. The mixture was stirred for another two hours and then neutralized with 1% HCl. Water (100 mL) was added and the mixture was extracted with CH2Cl2 (50 mL×3). The extracts were combined, washed with water (100 mL×2), dried with magnesium sulphate, filtered and evaporated. The crude product (3.41 g) was used without further purification. 1H NMR (400 MHz, CDCl3): δ 8.32 (d, J=2 Hz, 1H), 7.92-7.89 (m, 3H), 7.83 (bs, 1H), 7.72 (dd, J=9, 2 Hz, 1H), 7.49-7.47 (m, 3H), 4.71 (s, 2H), 1.52 (s, 9H).

reactant | 3-Chloro-4-phenyl-1H-pyrrole-2,5-dione | 7.47 mmol, 1.55 g | ClC=1C(NC(C1C1=CC=CC=C1)=O)=O | C10H6ClNO2
reactant | tert-Butyl [5-(bromomethyl)pyridin-2-yl]carbamate | 7.46 mmol, 2.14 g | BrCC=1C=CC(=NC1)NC(OC(C)(C)C)=O | C11H15BrN2O2
reactant | potassium carbonate | 7.47 mmol, 1.03 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | tert-Butyl {5-[(3-chloro-2,5-dioxo-4-phenyl-2,5-dihydro-1H-pyrrol-1-yl)methyl]pyridin-2-yl}carbamate | ClC=1C(N(C(C1C1=CC=CC=C1)=O)CC=1C=CC(=NC1)NC(OC(C)(C)C)=O)=O | C21H20ClN3O4
